US07713993B2
(2) Synthesis of 4-(4-fluorobenzyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-1H-imidazole
A solution of (E)-N-[3-(4-fluorophenyl)-2-oxopropyl]-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide (43 mg) and ammonium acetate (163 mg) in acetic acid (1 mL) and xylene (5 mL) was heated under reflux for 16 hours. The reaction solution was left to cool to room temperature. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex™ NH; elution solvent: ethyl acetate->ethyl acetate:methanol=5:1) to obtain 13 mg of the title compound. The property values of the compound are as follows.

reactant | (E)-N-[3-(4-fluorophenyl)-2-oxopropyl]-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide | 43 mg | FC1=CC=C(C=C1)CC(CNC(\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O)=O | C23H22FN3O3
reactant | ammonium acetate | 163 mg | C(C)(=O)[O-].[NH4+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | xylene | 5 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 4-(4-fluorobenzyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-1H-imidazole | 13 mg | FC1=CC=C(CC=2N=C(NC2)\C=C\C2=CC(=C(C=C2)N2C=NC(=C2)C)OC)C=C1 | C23H21FN4O
